Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x4, left internal 
mammary artery graft to left anterior descending, reverse 
saphenous vein graft to the first marginal branch, second 
marginal branch, and terminal circumflex artery.
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of coronary 
artery disease s/p PCI in ___, hyperlipidemia, hypertension, 
and ischemic cardiomyopathy. Over the past few months he has 
noted chest pain. He discussed this with his new primary care 
physician who referred him to Dr. ___. He underwent cardiac 
catheterization which revealed severe three-vessel coronary 
artery disease. Given the severity of his disease, he underwent 
surgical evaluation. 

He was scheduled for CABG on ___ with Dr/ ___ but 
surgery was postponed due to an elevated creatinine. He was 
discharged from the hospital and instructed to stop taking his 
lisinopril and was due to have his creatinine re-checked as an 
outpatient and his surgery to be re-scheduled. He presented 
today to ___ today with chest pain radiating to 
his jaw and arm and in hypertensive crisis BP 178/128. His creat 
is 1.0 today. Discussed case with Dr. ___ decision made 
to admit Mr. ___ to cardiac surgery and schedule for CABG 
in am ___.
 
Past Medical History:
Abdominal Aortic Aneurysm
Coronary Artery Disease s/p PCI
Diverticulosis/diverticulitis
Hyperlipidemia
Hypertension
Ischemic cardiomyopathy
Obstructive Sleep Apnea - CPAP
 
Social History:
___
Family History:
Mother passed of MI at age ___.

 
Physical Exam:
Admission PE:
BP: 148/68 (left arm ). Heart Rate: 59. O2 Saturation%: 100 
(room
air ). Resp. Rate: 16. Pain Score: 3 (between shoulder blades).

Height: 67"     Weight: 194 lbs

General: well appearing man in NAD
Skin: Warm, Dry and intact. 
HEENT: PERRL. Teeth in fair repair. 
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR, No murmur 
Abdomen: Obese, Soft [X] non-distended [X] non-tender [X] bowel 
sounds + [X]
Extremities: Warm [X], well-perfused [X]  No Edema
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:1   Left:1
___           Right:1   Left:1
Radial       Right:2   Left:2

Carotid Bruit:        None noted on exam

Discharge PE:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x]  
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema trace
Left Lower extremity    Warm [x]  Edema trace
Pulses:
DP             Right: +2      Left: +2 
___             Right: +2      Left: +2 
Radial         Right: +2      Left: +2 
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Lower extremity: Right [] Left [x]  CDI [x]

 
Pertinent Results:
Head CT ___: 
No acute intracranial abnormality.

Transesophageal Echocardiogram ___:
The left atrium is moderately dilated. No spontaneous echo 
contrast is seen in the body of the left atrium or left atrial 
appendage. A small patent foramen ovale is present. The left 
ventricular cavity is mildly dilated. Overall left ventricular 
systolic function is mildly depressed (LVEF= 45 to 50%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis. There is no aortic 
valve stenosis. No aortic regurgitation is seen. Trivial mitral 
regurgitation is seen. There is no pericardial effusion. 

POST-BYPASS: 
1. Pt is s/p CABG. LV EF 50%
2. Biventricular function remains unchanged
3. Visualized portions of the aorta remains unchanged  

 
___ 04:42AM BLOOD WBC-8.6 RBC-3.03* Hgb-9.2* Hct-27.9* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.5 RDWSD-44.7 Plt ___
___ 03:22AM BLOOD ___ PTT-26.1 ___
___ 04:42AM BLOOD Glucose-123* UreaN-23* Creat-1.2 Na-138 
K-4.6 Cl-97 HCO3-30 AnGap-11

UNDERLYING MEDICAL CONDITION: 
   ___ year old man s/p CABG  
REASON FOR THIS EXAMINATION: 
   ___ year old man s/p CABG  
 

Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old man s/p CABG/ ___ year old man s/p CABG 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  ___ 
  
IMPRESSION:  
  
Right IJ line has been removed.  There is a stable small right 
pleural 
effusion.  Moderate cardiomegaly is unchanged.  There is no 
pneumothorax.  
Interstitial edema has improved. 
 

 
Brief Hospital Course:
Mr. ___ was transferred from outside hospital to ___ for 
surgical management of his coronary artery disease. Upon 
admission he underwent surgical work-up while receiving medical 
management. On ___ he was taken to the operating room where he 
underwent a coronary artery bypass graft x 4. Please see 
operative note for surgical details. Following surgery he was 
transferred to the CVICU for invasive monitoring in stable 
condition. Later this day he was weaned from sedation, awoke 
neurologically intact and extubated.

He was weaned from inotropic and vasopressor support. Beta 
blocker was initiated and he was diuresed toward his 
preoperative weight. He remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery.  He was 
evaluated by the physical therapy service for assistance with 
strength and mobility. By the time of discharge on POD #4  he 
was ambulating freely, the wound was healing, and pain was 
controlled with oral analgesics. He was discharged to home in 
good condition with appropriate follow up instructions.
 
Medications on Admission:
ProAir HFA 90 mcg/actuation aerosol inhaler.  2 puffs every 4 
hours SOB/wheezing
Atorvastatin 40 mg daily
Gabapentin 600 mg qhs
Stopped ___ due to ^ creat. lisinopril 40 mg 
Metoprolol succinate ER 25 mg daily
Nitroglycerin 0.4 mg sublingual  prn chest pain
Flomax 0.4 mg daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a daily 
Disp #*30 Capsule Refills:*0 
4.  Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0 
5.  Metoprolol Tartrate 37.5 mg PO Q8H 
RX *metoprolol tartrate 37.5 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*1 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
7.  Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0 
8.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
9.  Senna 17.2 mg PO DAILY:PRN Constipation - First Line  
10.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
11.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
PRN  
14.  Tamsulosin 0.4 mg PO QHS  
15. HELD- Gabapentin 600 mg PO QHS  This medication was held. Do 
not restart Gabapentin until told to do so by your cardioloist 
or cardiac surgeon

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 4
Past medical history:
s/p PCI
Hypertension
Dyslipidemia
Ischemic cardiomyopathy
Abdominal aortic aneurysm 4.2cm
Diverticulosis/diverticulitis
OSA - CPAP

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema 2+

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___